US06511978B1
11-1) Preparation of 5-(t-butyldiphenylsilyloxymethyl)-4-methylimidazole
To 2.0 g(13.5 mmol) of 4-methyl-5-imidazolemethanol hydrochloride and 1.95 g(14.17 mmol) of potassium carbonate in 20 ml of dimethylformamide was added 3.88 g(14.17 mmol) of t-butyldiphenylsilylchloride was added dropwise thereto, and the resulting mixture was stirred for 3 hours. The solvent was removed under reduced pressure and the residue was dissolved in 20 ml of ethylacetate. The organic layer was washed with 20 ml of saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to column chromatography(eluent: dichloromethane/methanol=95/5, v/v) to give 1.22 g(3.44 mmol, Yield 26%) of the title compound.

reactant | 4-methyl-5-imidazolemethanol hydrochloride | 13.5 mmol, 2.0 g | Cl.CC=1N=CNC1CO
reactant | potassium carbonate | 14.17 mmol, 1.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyldiphenylsilylchloride | 14.17 mmol, 3.88 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | dichloromethane methanol | ClCCl.CO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-(t-butyldiphenylsilyloxymethyl)-4-methylimidazole | 3.44 mmol, 1.22 g, Yield 26% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(N=CN1)C | C21H26N2OSi
